US03946027
2-Methyl-4-(α-naphthyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester. ##SPC22##
After heating a solution of 15.6 g of 1-naphthaldehyde, 19 g of oxalacetic acid diethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol under reflux for 6-8 hours, and cooling, light yellow crystals of melting point 112° (ethanol) are obtained. Yield 65%.

reactant | 1-naphthaldehyde | 15.6 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | oxalacetic acid diethyl ester | 19 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(α-naphthyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | Yield 65% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC2=CC=CC=C12)C(=O)OCC)C(=O)OCC)C | C25H27NO6
